US06613743B2
(3S,3aR,6aS)Hexahydrofuro[2,3-b]furan-3-yl-N-((1S,2R)-1-benzyl-3-(cyclopentyloxy) (2-[(methylsulfonyl)amino]benzimidazol-5-ylsulfonyl)amino-2-hydroxypropyl)carbamate.
(3S,3aR,6aS) Hexahydrofuro[2,3-b]furan-3-yl-N-((1S,2R)-1-benzyl-3-(cyclopentyloxy)amino-2-hydroxypropyl)carbamate (0.050 g, 0.1 mmol) was combined with 2-[(methylsulfonyl)amino]benzimidazol-5-ylsulfonyl chloride (0.055 g, 0.2 mmol) in anhydrous DMF (1 ml) under a N2 atmosphere. The resulting solution was chilled to 0° C. and diisopropylethylethyl amine (0.062 ml, 0.4 mmol) was added. The reaction was allowed to warm to room temperature and stirred for 24 hours. Reaction mixture was diluted in EtOAc and washed with sat. NaHCO3, 0.5N KHSO4 and brine. Organic phase was dried with MgSO4 and solvent was removed in vacuo. Purification by preparative TLC (5% MeOH/EtOAc). Recovered 0.051 g (62%) of the product as a white foam. Rf=0.42 (5% MeOH/EtOAc). 1H NMR (CDCl3) 8.09 (1H,s), 7.76 (1H,d), 7.39 (1H,d), 7.32-7.12 (5H,m), 6.54-6.40 (2H,m), 5.67 (1H,d), 5.10-4.92 (2H,m), 4.85 (1H,m), 4.00-3.83 (3H,m), 3.82-3.70 (2H,m), 3.62-3.51 (1H,m), 3.38 (1H,m), 3.31 (3H,s), 3.10 (1H,m), 3.04-2.80 (4H,m), 1.92-1.70 (6H,m), 1.69-1.44 (4H,m). LRMS (M+H)+694.1.

reactant | (3S,3aR,6aS) Hexahydrofuro[2,3-b]furan-3-yl-N-((1S,2R)-1-benzyl-3-(cyclopentyloxy)amino-2-hydroxypropyl)carbamate | 0.1 mmol, 0.050 g | O1C[C@H]([C@@H]2[C@H]1OCC2)OC(N[C@H]([C@@H](CNOC2CCCC2)O)CC2=CC=CC=C2)=O | C22H32N2O6
reactant | 2-[(methylsulfonyl)amino]benzimidazol-5-ylsulfonyl chloride | 0.2 mmol, 0.055 g | CS(=O)(=O)NC=1NC2=C(N1)C=CC(=C2)S(=O)(=O)Cl | C8H8ClN3O4S2
reactant | diisopropylethylethyl amine | 0.4 mmol, 0.062 ml | C(C)(C)C(C)(NCC)C(C)C | C10H23N
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (3S,3aR,6aS)Hexahydrofuro[2,3-b]furan-3-yl-N-((1S,2R)-1-benzyl-3-(cyclopentyloxy) (2-[(methylsulfonyl)amino]benzimidazol-5-ylsulfonyl)amino-2-hydroxypropyl)carbamate | O1C[C@H]([C@@H]2[C@H]1OCC2)OC(N[C@H]([C@H](C(OC2CCCC2)NS(=O)(=O)C2=CC1=C(N=C(N1)NS(=O)(=O)C)C=C2)O)CC2=CC=CC=C2)=O | C30H39N5O10S2
